US04507498
A mixture of 2.94 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 5.85 g of [4-acetyl-3-[2-(2-chloroethoxy)ethoxy]-2-propylphenoxy]acetic acid ethyl ester, 4.2 g of anhydrous potassium carbonate, and 2.25 g of potassium iodide in 100 ml of anhydrous acetone and 50 ml of anhydrous dimethylformamide was stirred at reflux. Additional 2.0 g portions of potassium carbonate were added after 19, 26 and 51 hours. Reflux was continued for a total of 8 days and then the reaction mixture was concentrated in vacuo. The crude product was purified by liquid chromatography using 35% ethyl acetate-hexane to give 5.8 g (70% yield) of [4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 2.94 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | [4-acetyl-3-[2-(2-chloroethoxy)ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 5.85 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCCl)CCC)=O | C19H27ClO6
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.25 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 5.8 g, 70% yield | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C30H40O9
